US05521192
Under a nitrogen atmosphere a stirred solution of 5.5 grams (0.022 mole) of 3-oxo-5-(3-phenylphenyl)pentanenitrile and 0.5 gram (0.013 mole) of sodium borohydride in 75 mL of tetrahydrofuran was heated at reflux for four hours. After this time the reaction mixture was allowed to cool to ambient temperature where it stood for about 16 hours. The reaction mixture was then poured into 300 mL of aqueous 1N hydrochloric acid. The mixture was extracted with two 150 mL portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residual oil. NMR analysis of the residual oil indicated that it was impure. The oil was dissolved in 20:1 methylene chloride and ethyl acetate, and the solution was passed through a column of silica gel. The eluate was concentrated under reduced pressure, yielding 3.8 grams of 3-hydroxy-5-(3-phenyl-phenyl)pentanenitrile. The NMR spectrum was consistent with the proposed structure.

reactant | 3-oxo-5-(3-phenylphenyl)pentanenitrile | 0.022 mole, 5.5 grams | O=C(CC#N)CCC1=CC(=CC=C1)C1=CC=CC=C1 | C17H15NO
reactant | sodium borohydride | 0.013 mole, 0.5 gram | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 3-hydroxy-5-(3-phenyl-phenyl)pentanenitrile | 3.8 grams | OC(CC#N)CCC1=CC(=CC=C1)C1=CC=CC=C1 | C17H17NO
